US04964895
1-methyl-3-hydroxy-5-trifluoromethylpyrazole
A 50 ml. flask equipped with mechanical stirrer and reflux condenser was charged with 19.7 g of ethyl 3-methylamino-4,4,4-trifluoro-2-butenoate and 4.8 g of methylhydrazine and heated to 50°-65° C. for 2.75 hr., then to 40°-45° C. for 2 hr., and then allowed to cool to room temperature and stand overnight. The clear reaction mixture was taken up in 15 ml. of water and conc. hydrochloric acid added dropwise to pH 6.0-6.5 which required 5.2 ml. of acid. The precipitated product was collected by filtration and dried to obtain 7.06 g (42.5%) of product m.p. 127°-128.5° C.

reactant | ethyl 3-methylamino-4,4,4-trifluoro-2-butenoate | 19.7 g | CNC(=CC(=O)OCC)C(F)(F)F | C7H10F3NO2
reactant | methylhydrazine | 4.8 g | CNN | CH6N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-methyl-3-hydroxy-5-trifluoromethylpyrazole | 7.06 g, 42.5% | CN1N=C(C=C1C(F)(F)F)O | C5H5F3N2O
